US09233979B2
A solution of 4,6-dichloro-2-methylnicotinaldehyde (5.25 g, 23.48 mmol) in DMA (50 mL) was treated with hydrazine (7.37 mL, 235 mmol) at 0° C. The reaction was stirred for 15 min and then warmed to 80° C. for 2 h. The reaction was cooled and diluted with EtOAc and washed with water. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (0-100% EtOAc/hexanes) to give 6-chloro-4-methyl-1H-pyrazolo[4,3-c]pyridine. MS ESI calc'd. for C7H6ClN3 [M+1]+ 168. found 168.

reactant | 4,6-dichloro-2-methylnicotinaldehyde | 23.48 mmol, 5.25 g | ClC1=CC(=NC(=C1C=O)C)Cl | C7H5Cl2NO
reactant | hydrazine | 235 mmol, 7.37 mL | NN | H4N2
solvent | DMA | 50 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-chloro-4-methyl-1H-pyrazolo[4,3-c]pyridine | ClC1=CC2=C(C(=N1)C)C=NN2 | C7H6ClN3
